US04473579
A mixture of 13.9 g. of N-(2,4-dimethylbenzylidene)-2,4-dichloroaniline, 1.89 g. of sodium borohydride and 150 ml of ethanol is stirred under reflux for one hour, allowed to cool and poured into water. Recrystallization from ethanol yields N-(2,4-dimethylbenzyl)-2,4-dichloroaniline, m.p. 88°-90°.

reactant | N-(2,4-dimethylbenzylidene)-2,4-dichloroaniline | CC1=C(C=NC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)C | C15H13Cl2N
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-(2,4-dimethylbenzyl)-2,4-dichloroaniline | CC1=C(CNC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)C | C15H15Cl2N
